US09447030B2
To a solution of 1-((1-acetylpiperidin-4-yl)methyl)-3-(2-nitro-5-(thiophen-2-yl)phenyl)urea (0.09 g, 0.22 mmol) in methanol was added Pd/C (0.03 g, 0.028 mmol, 1.2 equiv.). The reaction mixture was degassed then stirred at room temperature under H2 atmosphere for 1 h. The reaction was filtered through celite and concentrated. The crude solid was washed with ether, and dried under reduced pressure to obtain of pure 1-((1-acetylpiperidin-4-yl)methyl)-3-(2-amino-5-(thiophen-2-yl)phenyl)urea (0.05 g, 60% yield). ESI+ MS: m/z 373 ([M]+). 1H NMR (500 MHz, d6-DMSO): δ 7.66 (d, J=2.0 Hz, 1H), 7.58 (s, 1H), 7.33 (d, J=5.0 Hz, 1H), 7.17 (d, J=3.5 Hz, 1H), 7.10 (dd, J=3.5 Hz, 1H), 7.04-7.02 (m, 1H), 6.72 (d, J=8.0 Hz, 1H), 6.31 (t, J=6.0 Hz, 1H), 4.89 (bs, 2H), 4.36 (d, J=13.0 Hz, 1H), 3.81 (d, J=13.5 Hz, 1H), 3.0-2.96 (m, 3H), 1.90 (s, 3H), 1.71-1.64 (m, 3H), 1.10-1.07 (m, 1H), 0.98-0.95 (m, 1H).

reactant | 1-((1-acetylpiperidin-4-yl)methyl)-3-(2-nitro-5-(thiophen-2-yl)phenyl)urea | 0.22 mmol, 0.09 g | C(C)(=O)N1CCC(CC1)CNC(=O)NC1=C(C=CC(=C1)C=1SC=CC1)[N+](=O)[O-] | C19H22N4O4S
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.028 mmol, 0.03 g, 1.2 equiv. | [Pd] | Pd
product | 1-((1-acetylpiperidin-4-yl)methyl)-3-(2-amino-5-(thiophen-2-yl)phenyl)urea | 0.05 g, 60% yield | C(C)(=O)N1CCC(CC1)CNC(=O)NC1=C(C=CC(=C1)C=1SC=CC1)N | C19H24N4O2S
